US07968583B2
Preparation of 4-fluoro-2-nitro-benzoic acid tert-butyl ester
A solution of 4-fluoro-2-nitro-benzoic acid (10 g, 54 mmol), di-tert-butyl-dicarbonate (2 eq., 23.6 g, 108 mmol) and 4-dimethylaminopyridine (0.3 eq., 1.98 g, 16.2 mmol) in tert-butanol (100 mL) and dichloromethane (100 mL) was stirred at room temperature for about 20 hours. The reaction mixture was then diluted with ethyl acetate (500 mL), washed with 1N HCl (500 mL), water (500 mL), brine (500 mL), dried over sodium sulfate and evaporated to dryness. The title compound was obtained as pale yellow oil (quantitative) and it was used in the next step without further purification.

reactant | 4-fluoro-2-nitro-benzoic acid | 54 mmol, 10 g | FC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | di-tert-butyl-dicarbonate | 108 mmol, 23.6 g, 2 eq. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 16.2 mmol, 1.98 g, 0.3 eq. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tert-butanol | 100 mL | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 4-fluoro-2-nitro-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C11H12FNO4
